US07846959B2
To a solution of 3-ethynyl-4-fluoroaniline (220 mg, 1.62 mmol) in ethyl acetate (10 mL) was added 10% palladium on carbon (wet). The resulting mixture was subjected to an atmosphere of hydrogen for approximately 1 h. The palladium on carbon was removed by filtration through celite. The filtrate was concentrated in vacuo to provide 3-ethyl-4-fluoroaniline (154 mg, 1.11 mmol, 69% yield) as a brown oil. 1H NMR (400 MHz, CDCl3): 6.77 (dd, 1H), 6.50 (dd, 1H), 6.45-6.41 (m, 1H), 3.47 (br s, 2H), 2.57 (q, 2H), 1.19 (t, 3H); MS (EI) for C8H10FN: 140 (MH+).

reactant | 3-ethynyl-4-fluoroaniline | 1.62 mmol, 220 mg | C(#C)C=1C=C(N)C=CC1F | C8H6FN
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | 3-ethyl-4-fluoroaniline | 1.11 mmol, 154 mg, 69% yield | C(C)C=1C=C(N)C=CC1F | C8H10FN
